US08030504B2
5-(Prop-2-ynyloxy)-1,2,3,4-tetrahydronaphthalene
5,6,7,8-Tetrahydronaphthalen-1-ol (Aldrich, 3.93 g, 26.5 mmol), propargyl bromide (80% in toluene, 3.9 ml, 35 mmol), and potassium carbonate (4.83 g, 35 mmol) were stirred together in acetonitrile (75 mL) for 6 days at ambient temperature. The solvent was removed under reduced pressure, and the residue taken into water and extracted with diethyl ether. The organic layers were combined, dried with magnesium sulfate, filtered, and the solvent was evaporated under reduced pressure to afford the title compound. 1H NMR (300 MHz, CDCl3) δ ppm 1.76 (m, 4H), 2.49 (t, J=2.37 Hz, 1H), 2.68 (t, J=5.59 Hz, 2H), 2.75 (t, J=5.59, 2H), 4.69 (d, J=2.37 Hz, 2H), 6.74 (dd, J=7.80, 3.73 Hz, 2H), 7.06 (t, J=7.80 Hz, 1H). MS (DCI) m/z 187.06 (M+H)+.

reactant | 5,6,7,8-Tetrahydronaphthalen-1-ol | 26.5 mmol, 3.93 g | C1(=CC=CC=2CCCCC12)O | C10H12O
reactant | propargyl bromide | 35 mmol, 3.9 ml | C(C#C)Br | C3H3Br
reactant | potassium carbonate | 35 mmol, 4.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
product | 5-(Prop-2-ynyloxy)-1,2,3,4-tetrahydronaphthalene | C(C#C)OC1=C2CCCCC2=CC=C1 | C13H14O
